US08809369B2
A mixture of afford 6-fluoro-4,4-dimethyl-2-[3-(4-p-tolyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (0.20 g, 0.41 mmol) in methanol (3 mL) and tetrahydrofuran (10 mL), 30% sodium hydroxide in water (1 mL). The reaction mixture was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 6-fluoro-4,4-dimethyl-2-[3-(4-p-tolyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (0.17 g, 90%) as a white solid which was used for next step without further purification: MS (ESI) M+1=474.3.

reactant | 6-fluoro-4,4-dimethyl-2-[3-(4-p-tolyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 0.41 mmol, 0.20 g | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)C)(C)C)F | C30H34FN3O2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
product | 6-fluoro-4,4-dimethyl-2-[3-(4-p-tolyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 0.17 g, 90% | FC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)C)(C)C | C29H32FN3O2
